US07160888B2
Synthesis of 7-[3-(4-Naphthalen-1-yl-piperazin-1-yl)-propoxy]-3,4-dihydro-1H-[1,8]naphthyridin-2-one
In a similar manner to the example shown above, 7-(3-piperazin-1-yl-propoxy)-3,4-dihydro-1H-[1,8]naphthyridin-2-one was coupled to 1-bromo-naphthalene to give the title compound (0.189 g). MS: APCI: M+1: 417.2 (Exact Mass: 416.22).

reactant | 7-(3-piperazin-1-yl-propoxy)-3,4-dihydro-1H-[1,8]naphthyridin-2-one | N1(CCNCC1)CCCOC1=CC=C2CCC(NC2=N1)=O | C15H22N4O2
reactant | 1-bromo-naphthalene | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
product | 7-[3-(4-Naphthalen-1-yl-piperazin-1-yl)-propoxy]-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.189 g | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCCOC1=CC=C2CCC(NC2=N1)=O | C25H28N4O2
